US07473694B2
Synthesis of 3-[5-chloro-7-(4-ethoxyphenylamino)pyrazolo[1,5-a]pyrimidin-6-yl]propan-1-ol
To an isopropanol (3 mL) solution containing 3-(5,7-dichloropyrazolo[1,5-a]pyrimidin-6-yl)propan-1-ol (224 mg, 0.910 mmol), triethylamine (253 μL, 1.82 mmol) and phenethidine (128 μL, 1.00 mmol) were added, and this mixture was stirred at 40° C. for 5 hr. After the reaction, the solvent was distilled off, aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate. The combined ethyl acetate layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the filtrate was concentrated and the residue was purified with column chromatography (30% ethyl acetate-hexane) to obtain the title compound (212 mg).

reactant | 3-(5,7-dichloropyrazolo[1,5-a]pyrimidin-6-yl)propan-1-ol | 0.910 mmol, 224 mg | ClC1=NC=2N(C(=C1CCCO)Cl)N=CC2 | C9H9Cl2N3O
reactant | triethylamine | 1.82 mmol, 253 μL | C(C)N(CC)CC | C6H15N
reactant | phenethidine | 1.00 mmol, 128 μL | CCOC1=CC=C(C=C1)N | C8H11NO
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 3-[5-chloro-7-(4-ethoxyphenylamino)pyrazolo[1,5-a]pyrimidin-6-yl]propan-1-ol | 212 mg | ClC1=NC=2N(C(=C1CCCO)NC1=CC=C(C=C1)OCC)N=CC2 | C17H19ClN4O2
